US07977340B2
A stirred mixture of 1-(7-Amino-5-pyridin-3-yl-benzothiazol-2-yl)-3-ethyl-urea (15 mg, 0.048 mmol), ethyl isocyanate (0.03 ml) and dibutyltindiacetate (2 drops) in anhydrous 1,4-dioxane (2 ml) was heated in a sealed vessel at 100° C. for 16 h. After cooling to ambient temperature, the 1-Ethyl-3-[2-(3-ethyl-ureido)-5-pyridin-3-yl-benzothiazol-7-yl]-urea was isolated by Preparative HPLC as a white solid (5.4 mg, 29%).

reactant | 1-(7-Amino-5-pyridin-3-yl-benzothiazol-2-yl)-3-ethyl-urea | 0.048 mmol, 15 mg | NC1=CC(=CC=2N=C(SC21)NC(=O)NCC)C=2C=NC=CC2 | C15H15N5OS
reactant | ethyl isocyanate | 0.03 ml | C(C)N=C=O | C3H5NO
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 1-Ethyl-3-[2-(3-ethyl-ureido)-5-pyridin-3-yl-benzothiazol-7-yl]-urea | C(C)NC(=O)NC1=CC(=CC=2N=C(SC21)NC(=O)NCC)C=2C=NC=CC2 | C18H20N6O2S
